US06384041B1
A mixture of 215 mg (0.542 mmol) of [[5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester and 3 mL of methanol were treated with 0.406 mL of 2 M sodium hydroxide and heated to 55° C. for 3 hours. The reaction was cooled to ambient temperature, 1.0 mL of 1 M HCl was added and the resulting slurry was concentrated under vacuum. The crude solid was combined with 20 mL of water and stirred for 20 minutes. The precipitate was collected by filtration, washed with 20 mL of water, and dried in vacuo (40° C., 10 torr) to provide 190 mg (91.7%) of [[5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid. as a white solid. nmr (500 MHz, dmso-d6) δ1.01 (t, J=7.4 Hz, 3H), 2.95 (q, J=7.4 Hz, 2H), 4.93 (s, 2H), 5.60 (s, 2H), 7.13 (d, J=7.2 Hz, 2H), 7.31 (m, 3H), 7.56 (s, 1H), 7.98 (s, 1H), 8.46 (s, 1H) 12.99 (bs, 1H)

reactant | [[5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 0.542 mmol, 215 mg | COC(COC=1C2=C(N=CN1)N(C(=C2C(C(=O)N)=O)CC)CC2=CC=CC=C2)=O | C20H20N4O5
reactant | sodium hydroxide | 2 M, 0.406 mL | [OH-].[Na+]
reactant | HCl | 1 M, 1.0 mL | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | [[5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid | 190 mg, 91.7% | NC(C(=O)C1=C(N(C=2N=CN=C(C21)OCC(=O)O)CC2=CC=CC=C2)CC)=O | C19H18N4O5
